US06524764B1
10.1 g (0.05 mol) of 4,4-dihydroxydiphenyl ether (result of calculation of dipole moment based on MOPAC-97=0.73 debye) and 47.0 g (0.175 mol) of 4-naphthoquinone diazide sulphonyl chloride were dissolved in 500 g of 1,4-dioxane under a current of dry nitrogen, and then warmed to 40° C. To this there was added, dropwise, 17.7 g (0.175 mol) of triethylamine mixed with 50 g of 1,4-dioxane, in such a way that the internal temperature of the system did not rise to more than 45° C. Following the dropwise addition, stirring was carried out for 2 hours at 40° C. The by-product triethylamine hydrochloride was filtered off and the filtrate poured into 3 litres of 1% hydrochloric acid, after which the precipitate which was deposited was collected by filtering. Washing was carried out twice with 10 litres of water, and drying performed for 20 hours in a vacuum dryer at 50° C. Naphthoquinone diazide compound (1) was obtained. (On average, 1.75 of the Q groups=4-naphthoquinone diazide sulphonyl groups and 0.25=hydrogen.)

reactant | 4-naphthoquinone diazide sulphonyl chloride | 0.175 mol, 47.0 g | S(=O)(=O)(Cl)Cl.[N-]=[N+]=[N-].[N-]=[N+]=[N-].C1(C=CC(C2=CC=CC=C12)=O)=O
reactant | triethylamine | 0.175 mol, 17.7 g | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 500 g | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 g | O1CCOCC1 | C4H8O2
product | Naphthoquinone diazide | [N-]=[N+]=[N-].[N-]=[N+]=[N-].C1(C=CC(C2=CC=CC=C12)=O)=O | InChI=1S/C10H6O2.2N3/c11-9-5-6-10(12)8-4-2-1-3-7(8)9;2*1-3-2/h1-6H;;/q;2*-1
